US09062152B2
Prophetic Example: Synthesis of thieno[3,2-b]thiophene-3,6-diylbis(thiophen-3-ylmethanone)
To a solution of thieno[3,2-b]thiophene-3,6-diylbis(thiophen-3-ylmethanol) in dichloromethane at 0° C. was added pyridinium chlorochromate. The mixture was allowed to warm up at room temperature and stirred for 4 hours. The mixture was then filtered through celite. The solvent was evaporated and the resulting product was purified by column chromatography.

reactant | thieno[3,2-b]thiophene-3,6-diylbis(thiophen-3-ylmethanol) | S1C2=C(C(=C1)C(O)C1=CSC=C1)SC=C2C(O)C2=CSC=C2 | C16H12O2S4
reactant | pyridinium chlorochromate | [Cr](=O)(=O)([O-])Cl.[NH+]1=CC=CC=C1
solvent | dichloromethane | ClCCl | CH2Cl2
product | thieno[3,2-b]thiophene-3,6-diylbis(thiophen-3-ylmethanone) | S1C2=C(C(=C1)C(=O)C1=CSC=C1)SC=C2C(=O)C2=CSC=C2 | C16H8O2S4
